US07470723B2
A stirred mixture of 4-bromo-2-ethoxy-1-methoxy-benzene (1.71 g, 7.4 mmol) and dry THF (18 mL) was cooled to −78° C., evacuated and refilled with nitrogen for 10 cycles. To this clear solution was slowly added n-butyllithium (3.0 mL, 7.4 mmol) and stirred for 20 min. Then a mixture of 4-dimethylamino-benzaldehyde (1.00 g, 6.7 mmol) in dry THF (10 mL) was added and stirred for 2 hour at −78° C. The mixture was quenched with isopropanol (3.1 mL, 40 mmol) and added water (10 mL). The mixture was extracted with EtOAc (3×50 mL). The combined organic phases were washed with water (2×50 mL), dried over MgSO4 and concentrated to oil, which was purified by flash column chromatography (EtOAc/Hexane) to give (4-dimethylamino-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol as an off-white solid (1.29 g, 64% yield): 1H NMR (CDCl3) δ 1.44 (t, J=7 Hz, 3H, CH2CH3), 2.04 (d, J=3 Hz, 1H, OH), 2.93 (s, 6H, N(CH3)2), 3.85 (s, 3H, OCH3), 4.07 (q, J=7 Hz, 2H, CH2CH3), 5.72 (d, J=3 Hz, 1H, CH), 6.68-7.23 (m, 7H, Ar). The product was used in the next step without further purification.

reactant | 4-bromo-2-ethoxy-1-methoxy-benzene | 7.4 mmol, 1.71 g | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | n-butyllithium | 7.4 mmol, 3.0 mL | C(CCC)[Li]
reactant | 4-dimethylamino-benzaldehyde | 6.7 mmol, 1.00 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | isopropanol | 40 mmol, 3.1 mL | C(C)(C)O | C3H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (4-dimethylamino-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol | 1.29 g, 64% yield | CN(C1=CC=C(C=C1)C(O)C1=CC(=C(C=C1)OC)OCC)C | C18H23NO3
